US08710236B2
Step C: 4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-amino}-benzoic Acid
4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-amino}-benzoic acid tert-butyl ester (430 mg, 0.74 mmol) was taken up in 10 mL of dichloromethane followed by addition of 1 mL of TFA and stirred for 16 h at RT. Removal of the organic layer under reduced pressure followed by addition of water to the precipitate. The solids were filtered to give 340 mg (87%) of white solids. 1H NMR showed the compound to be very clean and sufficient for the following step. LCMS (M+1=529.6).

reactant | 4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-amino}-benzoic acid tert-butyl ester | 0.74 mmol, 430 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)NC(C(NC1=CC=C(C=C1)I)=O)C1=CC=C(C=C1)C(C)(C)C)=O | C29H33IN2O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-{[(4-tert-Butyl-phenyl)-(4-iodo-phenylcarbamoyl)-methyl]-amino}-benzoic Acid | 340 mg, 87% | C(C)(C)(C)C1=CC=C(C=C1)C(C(NC1=CC=C(C=C1)I)=O)NC1=CC=C(C(=O)O)C=C1 | C25H25IN2O3
